US05767131
3-(4-Phenylpiperidin-1-yl)propionitrile.
Acrylonitrile (3.1 mL, 44 mmol, 2.5 equiv) was added to a solution of 4-phenylpiperidine (3.0 g, 18 mmol, 1.0 equiv) in EtOH (40 mL) and the mixture was stirred at room temperature for 1.5 hours. The volatiles were removed to give 3.8 g of pure product (brown oil, 99%), which was characterized spectroscopically.

reactant | Acrylonitrile | 44 mmol, 3.1 mL, 2.5 equiv | C(C=C)#N | C3H3N
reactant | 4-phenylpiperidine | 18 mmol, 3.0 g, 1.0 equiv | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
solvent | EtOH | 40 mL | CCO | C2H6O
product | 3-(4-Phenylpiperidin-1-yl)propionitrile | 3.8 g, 99% | C1(=CC=CC=C1)C1CCN(CC1)CCC#N | C14H18N2
